US04177290
(2) Benzhydrylthioacetamide
35 ml of ammonia in 40 ml of water are introduced into a three-necked flask provided with a condenser and a dropping funnel and the benzhydrylthioacetyl chloride dissolved in about 100 ml of methylene chloride is added drop by drop. Once the addition is complete, the organic phase is washed with a dilute solution of soda and dried over Na2SO4, the solvent is evaporated and the residue is taken up in diisopropyl ether; in this way, the benzhydrylthioacetamide is crystallised. 16.8 g of product (yield=86%) are obtained.

reactant | ammonia | 35 ml | N | H3N
reactant | benzhydrylthioacetyl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)CC(=S)Cl | C15H13ClS
solvent | water | 40 ml | O | H2O
solvent | methylene chloride | about 100 ml | C(Cl)Cl | CH2Cl2
product | Benzhydrylthioacetamide | 16.8 g, yield=86% | C(C1=CC=CC=C1)(C1=CC=CC=C1)CC(=S)N | C15H15NS
